US08686152B2
To a solution of 4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid methyl ester (8.73 mmol; 2.7 g) in DMF (20 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (9.58 mmol; 2.60 g), N,N-diisopropyl-N-ethylamine (17.46 mmol; 3.1 mL) and HBTU (10.48 mmol; 3.97 g), and the resulting mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added and the resulting solution was washed with a 1N hydrochloric acid solution (2×50 mL) and brine (50 mL), and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 60% EtOAc in heptane) to yield 4-biphenyl-4-ylmethyl-1-[2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl]-piperidine-4-carboxylic acid methyl ester after evaporation. MS (ESI) m/z 565.36 [M+H]+.

reactant | 4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid methyl ester | 8.73 mmol, 2.7 g | COC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H23NO2
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 9.58 mmol, 2.60 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 17.46 mmol, 3.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 10.48 mmol, 3.97 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-biphenyl-4-ylmethyl-1-[2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl]-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)NC(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C32H38N2O5S
